US08865701B2
Step 1: Benzyl 2-cyclohexyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate
4-methoxypyridine (17.56 ml, 173 mmol) in THF (577 ml) at −30° C. was added benzyl chloroformate (24.70 ml, 173 mmol) dropwise. Stirred at −30° C. for 30 minutes and then added cyclohexylmagnesium chloride (200 ml, 260 mmol). Stirred for 30 minutes at −30° C. and quenched with 1N HCl. Extracted 3 times with diethyl ether. The combined organic fractions were combined, dried (Naz SO4), filtered and the solvent was evaporated under reduced pressure. Purified on silica gel 30% EtOAc/Hexanes affording 35.25 g.

reactant | 4-methoxypyridine | 173 mmol, 17.56 ml | COC1=CC=NC=C1 | C6H7NO
reactant | benzyl chloroformate | 173 mmol, 24.70 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | cyclohexylmagnesium chloride | 260 mmol, 200 ml | C1(CCCCC1)[Mg]Cl
solvent | THF | 577 ml | C1CCOC1 | C4H8O
product | Benzyl 2-cyclohexyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate | C1(CCCCC1)C1N(C=CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C19H23NO3
